US06444668B1
To a solution of 2-amino-3-methoxybenzoic acid (5 g, 30 mmol) in anhydrous THF (100 mL) was added at ambient temperature under a blanket of nitrogen methylmagnesium bromide (3.0 M in THF, 50 mL, 150 mmol). The reaction mixture was heated at 50° C. for 18 hours, cooled to rt, and treated with a saturated aqueous ammonium chloride solution (50 mL). Ethyl acetate (100 mL) was added and organic layer was separated, dried (MgSO4), and evaporated. The residue was dissolved in anhydrous THF (100 mL) and treated at ambient temperature under nitrogen with 1,1′-carbonyldiimidazole (5.4 g, 33 mmol). After 24 hours, the mixture was quenched with 1N aqueous hydrogen chloride solution (30 mL). Ethyl acetate (100 mL) was added, organic layer was separated, dried (MgSO4), and evaporated. The residue was purified by a silica gel column chromatography (hexane:ethyl acetate/3:1) to afford 8-methoxy-4,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one as white solid (3.5 g, 56%): MS (ESI) m/z 208 [M+H]+.

reactant | 2-amino-3-methoxybenzoic acid | 30 mmol, 5 g | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
reactant | nitrogen methylmagnesium bromide | 150 mmol, 3.0 M, 50 mL | C[Mg]Br.[N]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | 1,1′-carbonyldiimidazole | 33 mmol, 5.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 8-methoxy-4,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 3.5 g, 56% | COC1=CC=CC=2C(OC(NC21)=O)(C)C | C11H13NO3
